US07834037B2
Step 1: N-[4-(Pyridin-2-ylmethoxy)-phenyl]-acetamide
A mixture of 4-acetamidophenol (Sigma-Aldrich; 73.6 g), 2-chloromethylpyridine hydrochloride (80 g) and cesium carbonate (320 g) in DMF (1 L) was stirred at 70° C. for 2 days. The mixture was cooled, poured into water (2 L) and extracted with EtOAC (×6). The organic layers were washed with brine, dried (MgSO4) and filtered to give a tan solid (A-1.14 g) which was used as such in the next step.

reactant | 4-acetamidophenol | 73.6 g | C(C)(=O)NC1=CC=C(C=C1)O | C8H9NO2
reactant | 2-chloromethylpyridine hydrochloride | 80 g | Cl.ClCC1=NC=CC=C1
reactant | cesium carbonate | 320 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 2 L | O | H2O
solvent | DMF | 1 L | CN(C)C=O | C3H7NO
product | N-[4-(Pyridin-2-ylmethoxy)-phenyl]-acetamide | N1=C(C=CC=C1)COC1=CC=C(C=C1)NC(C)=O | C14H14N2O2
